US07863291B2
A mixture of 5-bromopyridin-3-amine (248 mg, 1.43 mmol), Pd(PPh3)4 (50.4 mg, 0.04 mmol), toluene (3 mL), sodium carbonate (2 M, 3 mL, 6 mmol), and phenylboronic acid (195 mg, 1.60 mmol) dissolved in ethanol (3 mL) was heated for 4 hours in an oil bath at 90° C. and allowed to cool to room temperature for 16 hours. The reaction mixture was transferred to a separatory funnel and partitioned between ethyl acetate and water. The aqueous phase was washed once more with ethyl acetate, and the combined organic phases were washed with brine and dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (80% ethyl acetate/hexanes) to afford 5-phenylpyridin-3-amine (31.9 mg, 0.19 mmol, 13% yield) as a white solid. 1H NMR (500 MHz, CDCl3) δ ppm 8.17-8.42 (m, 1 H), 8.02-8.20 (m, 1 H), 7.32-7.62 (m, 4 H), 7.25 (s, 1 H), 7.06-7.20 (m, 1 H). MS (LC/MS) R.T.=0.91; [M+H]+=171.09.

reactant | 5-bromopyridin-3-amine | 1.43 mmol, 248 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 6 mmol, 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 1.60 mmol, 195 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.04 mmol, 50.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-phenylpyridin-3-amine | 0.19 mmol, 31.9 mg, 13% yield | C1(=CC=CC=C1)C=1C=C(C=NC1)N | C11H10N2
